US05112998
In 10 ml of dimethyl carbonate was dissolved 350 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxypregn-6-en-5α-ol, followed by addition of 50 mg of pyridinium p-toluenesulfonate. The mixture was stirred in an atmosphere of argon gas at room temperature for 10 hours. The reaction mixture was then worked up in the same manner as Example 132 to give 150 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxypregn-6-en-5α-ol | 350 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(N(C)C)=O)OC(NC1=CC=CC=C1)=O)O)C | C37H54N2O7
reactant | pyridinium p-toluenesulfonate | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dimethyl carbonate | 10 ml | C(OC)(OC)=O | C3H6O3
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 150 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(N(C)C)=O)OC(NC1=CC=CC=C1)=O)OC(=O)OC)C | C39H56N2O9
